US07799798B2
A. Synthesis of 1-pentyl-1H-pyrrolo[2,3-b]pyridine
To a suspension of sodium hydride in anhydrous N,N-dimethylformamide (40.0 mL) was added 1H-pyrrolo[2,3-b]pyridine (5.00 g, 42.4 mmol) at 0° C. The reaction mixture was stirred for 0.5 h, followed by the addition of 1-bromopentane (9.25 g, 61.2 mmol). The reaction mixture was stirred at ambient temperature for 3.5 h, quenched with water (20.0 mL) and extracted with ethyl acetate (3×100 mL). The combined organic layers was washed with water (3×50.0 mL), dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo to dryness to give the title compound (8.00 g, 100%) as a pale yellow oil: 1H NMR (300 MHz, CDCl3) δ 8.29 (dd, 1H), 7.86 (d, 1H), 7.19 (d, 1H), 7.02-6.98 (m, 1H), 6.41 (d, 1H), 4.25 (t, 2H), 1.89-1.79 (m, 2H), 1.35-1.25 (m, 4H), 0.85 (t, 3H); 13C NMR (75 MHz, CDCl3) δ 147.4, 142.6, 128.6, 127.9, 120.6, 115.5, 99.2, 44.6, 30.1, 29.0, 22.4, 13.9.

reactant | sodium hydride | [H-].[Na+]
reactant | 1H-pyrrolo[2,3-b]pyridine | 42.4 mmol, 5.00 g | N1C=CC=2C1=NC=CC2 | C7H6N2
reactant | 1-bromopentane | 61.2 mmol, 9.25 g | BrCCCCC | C5H11Br
solvent | N,N-dimethylformamide | 40.0 mL | CN(C=O)C | C3H7NO
product | 1-pentyl-1H-pyrrolo[2,3-b]pyridine | 8.00 g, 100% | C(CCCC)N1C=CC=2C1=NC=CC2 | C12H16N2
